US04405635
1,3-Dihydro-4-(4-hydroxybenzoyl)-5-methyl-2H-imidazol-2-one
To a melt of 26 g (0.23 mole) of pyridine hydrochloride at 200°-205° C. is added 5.3 g (0.023 mole) of 1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one and the mixture is stirred mechanically for 30 minutes. The reaction mixture is poured on ice-2NHCl. The resulting precipitate is washed with water and recrystallized from isopropanol-water to give the title compound. M.P. >300° C. λ(max)(methanol) 320 nm (ε=13,200).

reactant | pyridine hydrochloride | 0.23 mole, 26 g | Cl.N1=CC=CC=C1
reactant | 1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one | 0.023 mole, 5.3 g | COC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C12H12N2O3
product | 1,3-Dihydro-4-(4-hydroxybenzoyl)-5-methyl-2H-imidazol-2-one | OC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H10N2O3
